US03980681
3-Acetoxy-9β-oestra-1,3,5(10)-trien-17-one
3-Hydroxy-9β-oestra-1,3,5(10)-trien-17-one (370 mg., 1.4 mmole) was treated with acetic anhydride (3 ml.) in pyridine (3 ml.) at steam-bath temperature for 45 min. The cooled solution was poured into water (50 ml.), and extracted with ether (50 ml.). The ether extract was washed with 2N-sulphuric acid (25 ml.), then water (2 × 25 ml.) and the solvent evaporated in vacuo to give the title compound as a chromatographically pure oil (390 mg., 90%), υmax. 1758, 1735 and 1200 cm. -1.

reactant | 3-Hydroxy-9β-oestra-1,3,5(10)-trien-17-one | 1.4 mmole, 370 mg | OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@H]3C2C=C1)=O | C18H22O2
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 ml | O | H2O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetoxy-9β-oestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@H]3C2C=C1)=O | C20H24O3
